US09315475B2
Step 3. (2S,3S)-2-Azido-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoic acid
A solution of (4S)-3-[(2S,3S)-2-azido-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoyl]-4-phenyl-1,3-oxazolidin-2-one (3.1 g, 6.7 mmol) in 45 mL of THF and 15 mL of water was cooled to 0° C. in an ice-water bath. To the stirred solution was added hydrogen peroxide (2.7 mL of a 30% solution in water, 27 mmol) and LiOH (0.32 g, 13 mmol), and the mixture was stirred at 0° C. for 45 min. The reaction was quenched by the addition of a solution of sodium sulfite (3.4 g, 27 mmol) in 20 mL of water, followed by 67 mL of a 0.5 M solution of aqueous NaHCO3 (33 mmol). The stirred mixture was warmed to ambient temperature and most of the THF was removed in vacuo. The aqueous mixture was extracted with two portions of CH2Cl2 to remove the chiral auxiliary. The aqueous phase was then acidified to pH 1 with the addition of 6 N HCl and extracted with two portions of EtOAc. The combined EtOAc layers were dried (MgSO4), filtered, and the solvent was removed in vacuo to give a gum.

reactant | (4S)-3-[(2S,3S)-2-azido-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoyl]-4-phenyl-1,3-oxazolidin-2-one | 6.7 mmol, 3.1 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)[C@@H](C1=CC=C(C=C1)F)C1=CC(=CC(=C1)F)F | C24H17F3N4O3
reactant | hydrogen peroxide | OO | H2O2
reactant | LiOH | 13 mmol, 0.32 g | [Li+].[OH-]
reactant | sodium sulfite | 27 mmol, 3.4 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 33 mmol | C(=O)(O)[O-].[Na+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | (2S,3S)-2-Azido-3-(3,5-difluorophenyl)-3-(4-fluorophenyl)propanoic acid | N(=[N+]=[N-])[C@H](C(=O)O)[C@@H](C1=CC=C(C=C1)F)C1=CC(=CC(=C1)F)F | C15H10F3N3O2
